* NMCNR Amplifier Testbench (Nested Miller Compensation with Nulling Resistor)
.lib ../../device_models/sky130_fd_pr/combined_models/sky130.lib.spice tt

* Design variables injected by my_testbench_template/src/ngspice.py
.include 'design_var.inc'



*********** Unit Under Test ********************
.include "nmcnr.cir"
*********** Test-bench *************************


VDD VDD 0 DC 1.8
VSS VSS 0 DC 0
VINP VINP 0 DC 0.9 AC 0.5
VINN VINN 0 DC 0.9 AC -0.5

XDUT VSS VDD VINN VINP VOUT NMCNR

CLOAD VOUT 0 15e-9
RLOAD VOUT 0 25e3

.control
op
let vdd_current = abs(i(VDD))
let power_dc = vdd_current * 1.8 * 1e6
print power_dc

ac dec 100 1 10g
let gain_db = vdb(VOUT)
let dc_gain_db = gain_db[0]
print dc_gain_db

meas ac ugbw WHEN gain_db=0 CROSS=1
quit
.endc
.end
